US07776897B2
3-[1-(2-Thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (60 mg) was dissolved in acetic acid (3 ml) and then bromosuccinimide (38 mg) was added, followed by stirring at room temperature for 8 hours under light-shielding. The reaction solution was diluted with chloroform (30 ml) and then washed with water (10 ml), a 1M aqueous sodium hydroxide solution (10 ml), and brine (10 ml). The organic layer was dried and then concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (methanol:chloroform=2:98) to obtain 60 mg of 3-[1-(5-bromo-2-thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (white solid).

reactant | 3-[1-(2-Thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 60 mg | S1C(=CC=C1)C1(CCC1)C1=NN=C2N1CCCCCC2 | C16H21N3S
reactant | bromosuccinimide | 38 mg | BrC1C(=O)NC(C1)=O | C4H4BrNO2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[1-(5-bromo-2-thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 60 mg | BrC1=CC=C(S1)C1(CCC1)C1=NN=C2N1CCCCCC2 | C16H20BrN3S
